* NGSPICE file created from current_mirror.ext - technology: gf180mcuD

.subckt M3 a_n170_n881# a_50_n881# w_n436_n1309# a_n50_n1089# VSUBS
X0 a_50_n881# a_n50_n1089# a_n170_n881# w_n436_n1309# pfet_03v3 ad=4.8p pd=17.2u as=4.8p ps=17.2u w=8u l=0.5u
C0 a_n50_n1089# a_50_n881# 0.1511f
C1 a_n170_n881# a_50_n881# 1.38159f
C2 a_n50_n1089# w_n436_n1309# 0.40291f
C3 w_n436_n1309# a_n170_n881# 0.85443f
C4 w_n436_n1309# a_50_n881# 1.11309f
C5 a_n50_n1089# a_n170_n881# 0.1643f
C6 a_50_n881# VSUBS 0.22915f
C7 a_n170_n881# VSUBS 0.23296f
C8 a_n50_n1089# VSUBS 0.05695f
C9 w_n436_n1309# VSUBS 8.14076f
.ends

.subckt M1 a_n50_n689# a_n388_n853# a_28_n481# a_n178_n481#
X0 a_28_n481# a_n50_n689# a_n178_n481# a_n388_n853# nfet_03v3 ad=3p pd=9.5u as=3p ps=9.5u w=4u l=0.28u
C0 a_n178_n481# a_n50_n689# 0.05931f
C1 a_n50_n689# a_28_n481# 0.04852f
C2 a_n178_n481# a_28_n481# 0.79223f
C3 a_28_n481# a_n388_n853# 0.91438f
C4 a_n178_n481# a_n388_n853# 0.65403f
C5 a_n50_n689# a_n388_n853# 0.43511f
.ends

.subckt M4 a_n170_n241# a_50_n241# w_n436_n669# a_n50_n449# VSUBS
X0 a_50_n241# a_n50_n449# a_n170_n241# w_n436_n669# pfet_03v3 ad=0.96p pd=4.4u as=0.96p ps=4.4u w=1.6u l=0.5u
C0 a_n50_n449# a_50_n241# 0.03432f
C1 a_n170_n241# a_50_n241# 0.49483f
C2 a_n50_n449# w_n436_n669# 0.40991f
C3 w_n436_n669# a_n170_n241# 0.31605f
C4 w_n436_n669# a_50_n241# 0.57366f
C5 a_n50_n449# a_n170_n241# 0.0504f
C6 a_50_n241# VSUBS 0.07004f
C7 a_n170_n241# VSUBS 0.06917f
C8 a_n50_n449# VSUBS 0.05013f
C9 w_n436_n669# VSUBS 4.31562f
.ends

.subckt M2 a_n400_n689# a_n520_n481# a_400_n481# a_n730_n853#
X0 a_400_n481# a_n400_n689# a_n520_n481# a_n730_n853# nfet_03v3 ad=2.4p pd=9.2u as=2.4p ps=9.2u w=4u l=4u
C0 a_n520_n481# a_n400_n689# 0.38556f
C1 a_n400_n689# a_400_n481# 0.25939f
C2 a_n520_n481# a_400_n481# 0.60052f
C3 a_400_n481# a_n730_n853# 1.23378f
C4 a_n520_n481# a_n730_n853# 0.71367f
C5 a_n400_n689# a_n730_n853# 1.90584f
.ends

.subckt current_mirror avss avdd A B
XM3_0 avdd B avdd B avss M3
XM1_0 A avss A avss M1
XM4_0 avdd A avdd A avss M4
XM2_0 A avss B avss M2
R0 B.n2 B.n1 87.6185
R1 B.n2 B.n0 13.0311
R2 B B.n2 9.6755
R3 A.n6 A.n4 88.4721
R4 A.n3 A.n2 40.6645
R5 A.n8 A.n0 15.5896
R6 A.n3 A.n1 14.5508
R7 A.n6 A.n5 11.8027
R8 A.n8 A.n7 9.9545
R9 A.n7 A.n3 0.9455
R10 A.n7 A.n6 0.4775
R11 A A.n8 0.0905
R12 avdd.n34 avdd.n23 1397.13
R13 avdd.n34 avdd.n33 1397.13
R14 avdd.n15 avdd.n4 663.191
R15 avdd.n7 avdd.n4 663.191
R16 avdd.n36 avdd.n35 126.439
R17 avdd.n35 avdd.n24 126.439
R18 avdd.n32 avdd.n26 126.439
R19 avdd.n26 avdd.n25 126.439
R20 avdd.n16 avdd.n3 70.438
R21 avdd.n8 avdd.n3 70.438
R22 avdd.n13 avdd.n5 70.438
R23 avdd.n14 avdd.n13 70.438
R24 avdd avdd.n40 17.5126
R25 avdd.n9 avdd.n8 6.3005
R26 avdd.n10 avdd.n5 6.3005
R27 avdd.n17 avdd.n16 6.3005
R28 avdd.n14 avdd.n2 6.3005
R29 avdd.n27 avdd.n24 6.3005
R30 avdd.n32 avdd.n31 6.3005
R31 avdd.n25 avdd.n22 6.3005
R32 avdd.n37 avdd.n36 6.3005
R33 avdd.n40 avdd.n19 6.20729
R34 avdd.n30 avdd.n28 5.92113
R35 avdd.n29 avdd.n20 5.92113
R36 avdd.n28 avdd.n21 5.9133
R37 avdd.n12 avdd.n11 5.29504
R38 avdd.n6 avdd.n0 5.29504
R39 avdd.n12 avdd.n1 5.28722
R40 avdd.n40 avdd.n39 5.0718
R41 avdd.n19 avdd.n18 4.7345
R42 avdd.n39 avdd.n38 4.7345
R43 avdd.n18 avdd.n17 4.5005
R44 avdd.n2 avdd.n1 4.5005
R45 avdd.n9 avdd.n6 4.5005
R46 avdd.n11 avdd.n10 4.5005
R47 avdd.n22 avdd.n21 4.5005
R48 avdd.n38 avdd.n37 4.5005
R49 avdd.n29 avdd.n27 4.5005
R50 avdd.n31 avdd.n30 4.5005
R51 avdd.n7 avdd.n5 3.31679
R52 avdd.n8 avdd.n7 3.31679
R53 avdd.n15 avdd.n14 3.31679
R54 avdd.n16 avdd.n15 3.31679
R55 avdd.n33 avdd.n32 3.31679
R56 avdd.n33 avdd.n24 3.31679
R57 avdd.n36 avdd.n23 3.31679
R58 avdd.n25 avdd.n23 3.31679
R59 avdd.n39 avdd.n20 1.18713
R60 avdd.n13 avdd.n12 0.7005
R61 avdd.n13 avdd.n4 0.7005
R62 avdd.n3 avdd.n0 0.7005
R63 avdd.n4 avdd.n3 0.7005
R64 avdd.n19 avdd.n0 0.561043
R65 avdd.n28 avdd.n26 0.274413
R66 avdd.n34 avdd.n26 0.274413
R67 avdd.n35 avdd.n20 0.274413
R68 avdd.n35 avdd.n34 0.274413
R69 avdd.n10 avdd.n9 0.1445
R70 avdd.n17 avdd.n2 0.1445
R71 avdd.n18 avdd.n1 0.1445
R72 avdd.n11 avdd.n6 0.1445
R73 avdd.n31 avdd.n27 0.1445
R74 avdd.n37 avdd.n22 0.1445
R75 avdd.n38 avdd.n21 0.1445
R76 avdd.n30 avdd.n29 0.1445
R77 avss.n42 avss.n41 11404.9
R78 avss.n27 avss.n7 248.024
R79 avss.n42 avss.n19 164.232
R80 avss.n65 avss.n7 164.232
R81 avss.n34 avss.n27 151.942
R82 avss.n41 avss.n22 151.942
R83 avss.n43 avss.n20 104.514
R84 avss.n43 avss.n18 104.514
R85 avss.n64 avss.n5 104.514
R86 avss.n66 avss.n5 104.514
R87 avss.n35 avss.n26 102.376
R88 avss.n40 avss.n23 102.376
R89 avss.n40 avss.n24 102.376
R90 avss.n33 avss.n26 102.376
R91 avss.n49 avss.n19 89.3783
R92 avss.n49 avss.n13 89.3783
R93 avss.n57 avss.n13 89.3783
R94 avss.n57 avss.n6 89.3783
R95 avss.n65 avss.n6 89.3783
R96 avss.n34 avss.n22 89.3783
R97 avss avss.n70 17.334
R98 avss.n35 avss.n23 15.5561
R99 avss.n33 avss.n24 15.5561
R100 avss.n48 avss.n20 15.5561
R101 avss.n48 avss.n12 15.5561
R102 avss.n58 avss.n12 15.5561
R103 avss.n58 avss.n8 15.5561
R104 avss.n64 avss.n8 15.5561
R105 avss.n50 avss.n18 15.5561
R106 avss.n50 avss.n14 15.5561
R107 avss.n56 avss.n14 15.5561
R108 avss.n56 avss.n4 15.5561
R109 avss.n66 avss.n4 15.5561
R110 avss.n44 avss.n16 5.55683
R111 avss.n62 avss.n1 5.55683
R112 avss.n45 avss.n44 5.549
R113 avss.n39 avss.n38 5.53703
R114 avss.n29 avss.n28 5.53703
R115 avss.n28 avss.n25 5.5292
R116 avss.n70 avss.n0 5.39275
R117 avss.n31 avss.n24 5.2005
R118 avss.n24 avss.n22 5.2005
R119 avss.n33 avss.n32 5.2005
R120 avss.n34 avss.n33 5.2005
R121 avss.n36 avss.n35 5.2005
R122 avss.n35 avss.n34 5.2005
R123 avss.n37 avss.n23 5.2005
R124 avss.n23 avss.n22 5.2005
R125 avss.n64 avss.n63 5.2005
R126 avss.n65 avss.n64 5.2005
R127 avss.n9 avss.n8 5.2005
R128 avss.n8 avss.n6 5.2005
R129 avss.n59 avss.n58 5.2005
R130 avss.n58 avss.n57 5.2005
R131 avss.n12 avss.n11 5.2005
R132 avss.n13 avss.n12 5.2005
R133 avss.n48 avss.n47 5.2005
R134 avss.n49 avss.n48 5.2005
R135 avss.n21 avss.n20 5.2005
R136 avss.n20 avss.n19 5.2005
R137 avss.n67 avss.n66 5.2005
R138 avss.n66 avss.n65 5.2005
R139 avss.n4 avss.n3 5.2005
R140 avss.n6 avss.n4 5.2005
R141 avss.n56 avss.n55 5.2005
R142 avss.n57 avss.n56 5.2005
R143 avss.n15 avss.n14 5.2005
R144 avss.n14 avss.n13 5.2005
R145 avss.n51 avss.n50 5.2005
R146 avss.n50 avss.n49 5.2005
R147 avss.n18 avss.n17 5.2005
R148 avss.n19 avss.n18 5.2005
R149 avss.n70 avss.n69 4.87615
R150 avss.n69 avss.n68 4.7615
R151 avss.n30 avss.n0 4.7417
R152 avss.n36 avss.n25 4.5005
R153 avss.n38 avss.n37 4.5005
R154 avss.n31 avss.n30 4.5005
R155 avss.n32 avss.n29 4.5005
R156 avss.n52 avss.n51 4.5005
R157 avss.n53 avss.n15 4.5005
R158 avss.n55 avss.n54 4.5005
R159 avss.n3 avss.n2 4.5005
R160 avss.n68 avss.n67 4.5005
R161 avss.n17 avss.n16 4.5005
R162 avss.n47 avss.n46 4.5005
R163 avss.n11 avss.n10 4.5005
R164 avss.n60 avss.n59 4.5005
R165 avss.n61 avss.n9 4.5005
R166 avss.n63 avss.n62 4.5005
R167 avss.n45 avss.n21 4.5005
R168 avss.n39 avss.n0 0.795826
R169 avss.n69 avss.n1 0.795826
R170 avss.n28 avss.n26 0.371929
R171 avss.n27 avss.n26 0.371929
R172 avss.n40 avss.n39 0.371929
R173 avss.n41 avss.n40 0.371929
R174 avss.n44 avss.n43 0.371929
R175 avss.n43 avss.n42 0.371929
R176 avss.n5 avss.n1 0.371929
R177 avss.n7 avss.n5 0.371929
R178 avss.n32 avss.n31 0.1445
R179 avss.n37 avss.n36 0.1445
R180 avss.n38 avss.n25 0.1445
R181 avss.n30 avss.n29 0.1445
R182 avss.n47 avss.n21 0.1445
R183 avss.n47 avss.n11 0.1445
R184 avss.n59 avss.n11 0.1445
R185 avss.n59 avss.n9 0.1445
R186 avss.n63 avss.n9 0.1445
R187 avss.n51 avss.n17 0.1445
R188 avss.n51 avss.n15 0.1445
R189 avss.n55 avss.n15 0.1445
R190 avss.n55 avss.n3 0.1445
R191 avss.n67 avss.n3 0.1445
R192 avss.n52 avss.n16 0.1445
R193 avss.n53 avss.n52 0.1445
R194 avss.n54 avss.n53 0.1445
R195 avss.n54 avss.n2 0.1445
R196 avss.n68 avss.n2 0.1445
R197 avss.n46 avss.n45 0.1445
R198 avss.n46 avss.n10 0.1445
R199 avss.n60 avss.n10 0.1445
R200 avss.n61 avss.n60 0.1445
R201 avss.n62 avss.n61 0.1445
C0 A avdd 1.9913f
C1 avdd B 0.85607f
C2 A B 0.20092f
C3 avss.n0 avss 0
C4 avss.n1 avss 0
C5 avss.n2 avss 0
C6 avss.n3 avss 0
C7 avss.n4 avss 0
C8 avss.n5 avss 0
C9 avss.n6 avss 0.00268f
C10 avss.n7 avss 0.00618f
C11 avss.n8 avss 0
C12 avss.n9 avss 0
C13 avss.n10 avss 0
C14 avss.n11 avss 0
C15 avss.n12 avss 0
C16 avss.n13 avss 0.00268f
C17 avss.n14 avss 0
C18 avss.n15 avss 0
C19 avss.n16 avss 0
C20 avss.n17 avss 0
C21 avss.n18 avss 0
C22 avss.n19 avss 0.0038f
C23 avss.n20 avss 0
C24 avss.n21 avss 0
C25 avss.n22 avss 0.00362f
C26 avss.n23 avss 0
C27 avss.n24 avss 0
C28 avss.n25 avss 0
C29 avss.n26 avss 0
C30 avss.n27 avss 0.006f
C31 avss.n28 avss 0
C32 avss.n29 avss 0
C33 avss.n30 avss 0
C34 avss.n31 avss 0
C35 avss.n32 avss 0
C36 avss.n33 avss 0
C37 avss.n34 avss 0.00362f
C38 avss.n35 avss 0
C39 avss.n36 avss 0
C40 avss.n37 avss 0
C41 avss.n38 avss 0
C42 avss.n39 avss 0
C43 avss.n40 avss 0
C44 avss.n41 avss 0.11681f
C45 avss.n42 avss 0.15686f
C46 avss.n43 avss 0
C47 avss.n44 avss 0
C48 avss.n45 avss 0
C49 avss.n46 avss 0
C50 avss.n47 avss 0
C51 avss.n48 avss 0
C52 avss.n49 avss 0.00268f
C53 avss.n50 avss 0
C54 avss.n51 avss 0
C55 avss.n52 avss 0
C56 avss.n53 avss 0
C57 avss.n54 avss 0
C58 avss.n55 avss 0
C59 avss.n56 avss 0
C60 avss.n57 avss 0.00268f
C61 avss.n58 avss 0
C62 avss.n59 avss 0
C63 avss.n60 avss 0
C64 avss.n61 avss 0
C65 avss.n62 avss 0
C66 avss.n63 avss 0
C67 avss.n64 avss 0
C68 avss.n65 avss 0.0038f
C69 avss.n66 avss 0
C70 avss.n67 avss 0
C71 avss.n68 avss 0
C72 avss.n69 avss 0
C73 avss.n70 avss 0.02296f
C74 avdd.n0 avss 0.00387f
C75 avdd.n1 avss 0.00198f
C76 avdd.n2 avss 0
C77 avdd.n3 avss 0.0028f
C78 avdd.n4 avss 0.02371f
C79 avdd.n5 avss 0.00171f
C80 avdd.n6 avss 0.00195f
C81 avdd.n7 avss 0.01556f
C82 avdd.n8 avss 0.00171f
C83 avdd.n9 avss 0
C84 avdd.n10 avss 0
C85 avdd.n11 avss 0.00195f
C86 avdd.n12 avss 0.00593f
C87 avdd.n13 avss 0.0028f
C88 avdd.n14 avss 0.00171f
C89 avdd.n15 avss 0.01556f
C90 avdd.n16 avss 0.00171f
C91 avdd.n17 avss 0
C92 avdd.n18 avss 0.00179f
C93 avdd.n19 avss 0.00718f
C94 avdd.n20 avss 0.00759f
C95 avdd.n21 avss 0.00361f
C96 avdd.n22 avss 0
C97 avdd.n23 avss 0.02867f
C98 avdd.n24 avss 0.00281f
C99 avdd.n25 avss 0.00281f
C100 avdd.n26 avss 0.00493f
C101 avdd.n27 avss 0
C102 avdd.n28 avss 0.01723f
C103 avdd.n29 avss 0.00238f
C104 avdd.n30 avss 0.00238f
C105 avdd.n31 avss 0
C106 avdd.n32 avss 0.00281f
C107 avdd.n33 avss 0.02867f
C108 avdd.n34 avss 0.04993f
C109 avdd.n35 avss 0.00493f
C110 avdd.n36 avss 0.00281f
C111 avdd.n37 avss 0
C112 avdd.n38 avss 0.00179f
C113 avdd.n39 avss 0.00536f
C114 avdd.n40 avss 0.23244f
C115 A.n0 avss 1.06303f
C116 A.n1 avss 0.10277f
C117 A.n2 avss 0.06354f
C118 A.n3 avss 0.36194f
C119 A.n4 avss 0.06415f
C120 A.n5 avss 0.40767f
C121 A.n6 avss 0.441f
C122 A.n7 avss 0.19189f
C123 A.n8 avss 0.61048f
C124 B.n0 avss 0.53296f
C125 B.n1 avss 0.13142f
C126 B.n2 avss 0.58954f
C127 B avss -0.8454f
C128 A avss -1.56461f
C129 avdd avss -13.55735f
.ends

