* NGSPICE file created from D14_topcell.ext - technology: gf180mcuD

* Black-box entry subcircuit for layer_input abstract view
.subckt layer_input Iext1 Iext2 Iext3 Iext4 nvout_1 nvout_2 nvout_3 nvout_4 vdd vout_1
+ vout_2 vout_3 vout_4 vss
.ends

* Black-box entry subcircuit for encoder abstract view
.subckt encoder vss vdd Vin Vin_neg Iex_1_i Iex_2_i Iex_3_i Iex_4_i
.ends

.subckt D14_topcell Vin Vin_neg avdd avss nvout_1 nvout_2 nvout_3 nvout_4 vout_1 vout_2
+ vout_3 vout_4
Xu_layer_input u_encoder/Iex_1_i u_encoder/Iex_2_i u_encoder/Iex_3_i u_encoder/Iex_4_i
+ nvout_1 nvout_2 nvout_3 nvout_4 avdd vout_1 vout_2 vout_3 vout_4 avss layer_input
Xu_encoder avss avdd Vin Vin_neg u_encoder/Iex_1_i u_encoder/Iex_2_i u_encoder/Iex_3_i
+ u_encoder/Iex_4_i encoder
.ends

