.param mim_corner_2p0fF=1
.param mc_c_cox_2p0fF=0
.subckt cap_mim_2f0fF  1 2  c_length=l  c_width=w dtemp=0 par=1
.param gleak='9.51e-10/5*10000'
.param c_cox='1.99e-3*mim_corner_2p0fF'
.param c_capsw='2.383e-10*mim_corner_2p0fF'
.param c_vcr1='0+(c_width>5u||c_length>5u)*8.742e-6+(c_width<=5u||c_length<=5u)*(-81e-6)'
.param c_vcr2='0+(c_width>5u||c_length>5u)*9.188e-6+(c_width<=5u||c_length<=5u)*(16.7e-6)'

.param c_tnom=25
.param c_tc1=1.46e-5
.param c_tc2=-5.55e-8
.param c_AREA='c_length*c_width'
.param c_PERI='2*(c_length+c_width)'

* .param c_c0='(c_cox*c_AREA+c_capsw*c_PERI)*(1+c_tc1*(temper +dtemp -c_tnom)+c_tc2*(temper+dtemp-c_tnom)*(temper+dtemp-c_tnom))'
.param c_c0='(c_cox*c_area+c_capsw*c_peri) * (1+mc_c_cox_2p0fF)'

*/ model for capacitance
.MODEL cap_mim_2f0_model C 
+ cap=c_c0 
+ tc1=c_tc1 
+ tc2=c_tc2
+ tnom=c_tnom

* c_cap 1 2 c='c_c0*(1+c_vcr1*v(1,2)+c_vcr2*v(1,2)*v(1,2))*(1+mc_c_cox_2p0fF)'
c_cap 1 2 cap_mim_2f0_model dtemp=dtemp
r_leak 1 2 r='1/(gleak*c_AREA)' tc1=c_tc1 tc2=c_tc2 dtemp=dtemp

.ends cap_mim_2f0
